// Switching Loss Testbench

simulator lang=spectre

global 0

parameters tlo0=4.9u tlo1=4.9u thi0=4.9u thi1=4.9u \
    tdead=10n tperiod=10u trise=1n tfall=1n \
    iload=60 rg0=500m rg1=5 vsup=200 vgate=6 \
    minc=100a

pspice_include "./%TRANSISTOR%.pspice"

Rghi0 (hi0 ghi) resistor r=rg0
Rghi1 (hi1 ghi) resistor r=rg1

Rglo0 (lo0 glo) resistor r=rg0
Rglo1 (lo1 glo) resistor r=rg1

Whi0 (out  hi0 swhi0 0) relay vt1=1 ropen=1M rclosed=1m
Whi1 (gpos hi1 swhi1 0) relay vt1=1 ropen=1M rclosed=1m

Wlo0 (supn lo0 swlo0 0) relay vt1=1 ropen=1M rclosed=1m
Wlo1 (gneg lo1 swlo1 0) relay vt1=1 ropen=1M rclosed=1m

Iout (out 0) isource dc=iload type=dc

Ihi (ghi supp out) %TRANSISTOR% %NETLISTING%

Ilo (glo out supn) %TRANSISTOR% %NETLISTING%

Vsupn (supn 0) vsource dc=-vsup type=dc
Vsupp (supp 0) vsource dc=vsup type=dc

//Vghi (ghi out) vsource dc=vgate type=pulse period=tperiod\
//    delay=0 rise=trise fall=tfall width=((tperiod*0.5)-(tdead/2))\
//    val0=0 val1=vgate
//Vglo (glo supn) vsource dc=vgate type=pulse period=tperiod \
//    delay=((tperiod*0.5)+(tdead/2)) rise=trise fall=tfall \
//    width=((tperiod*0.5)-(tdead/2)) val0=0 val1=vgate

Vglo (gneg supn) vsource dc=vgate type=dc
Vghi (gpos out)   vsource dc=vgate type=dc

Vswlo0 (swlo0 0) vsource dc=0 type=pulse delay=tperiod/2 val0=vgate val1=0 \
        period=tperiod rise=trise fall=tfall width=tperiod/2 - tdead
Vswlo1 (swlo1 0) vsource dc=0 type=pulse delay=tperiod/2 val0=0 val1=vgate \
        period=tperiod rise=trise fall=tfall width=tperiod/2 - tdead
Vswhi0 (swhi0 0) vsource dc=0 type=pulse val0=vgate val1=0 \
        period=tperiod rise=trise fall=tfall width=tperiod/2 - tdead
Vswhi1 (swhi1 0) vsource dc=0 type=pulse val0=0 val1=vgate \
        period=tperiod rise=trise fall=tfall width=tperiod/2 - tdead

//ic glo=-200 gneg=-200 gpos=205 ghi=205 out=200 
//ic gpos=205 ghi=205 out=200 

save *:currents sigtype=subckt

//simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
//    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
//    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 \
//    redefinedparams=warning maxnotes=5 maxwarns=5 digits=5 cols=80 \
//    pivrel=1e-3 sensfile="../psf/sens.output" checklimitdest=psf 

simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 \
    save=selected rawfmt=nutbin highvoltage=yes tempeffects=all \
    homotopy=all limit=delta scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    redefinedparams=warning maxnotes=5 maxwarns=5 digits=5 cols=80 \
    pivrel=1e-3 compatible=spice2 useterms=name sensfile="./sens.output"

//tran tran stop=17u errpreset=conservative cmin=100a write="spectre.ic" \
//    writefinal="spectre.fc" method=trap annotate=status maxiters=5 

tran tran stop=17u errpreset=conservative method=trap annotate=status \
    maxstep=1.70000e-07 ic=all useprevic=no skipdc=no lteratio=10.0000 \
    maxiters=5 relref=alllocal title="tran" cmin=minc 

    //cmin=100a write="spectre.ic" writefinal="spectre.fc"\

// finalTimeOP info what=oppoint where=rawfile
// modelParameter info what=models where=rawfile
// element info what=inst where=rawfile
// outputParameter info what=output where=rawfile
// designParamVals info what=parameters where=rawfile
// primitives info what=primitives where=rawfile
// subckts info what=subckts where=rawfile
// save Vout gate_low gate_high plus_Vq minus_Vq I10:2 I11:2 
// saveOptions options save=allpub 
